US07807709B2
B. (3R*,4R*)-3-({cyclopropyl-[2-(4-methoxy-phenyl)-acetyl]-amino}-methyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 4-methoxyphenylacetic acid (0.075 g, 0.45 mmol) in CH2Cl2 (3 mL), are added triethylamine (0.063 mL, 0.45 mmol), 1-hydroxy-benzotriazol hydrate (0.061 g, 0.45 mmol) and N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride (EDC) (0.086 g, 0.45 mmol) followed by (3R*,4R*)-3-cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.2 g, 0.375 mmol). The resulting mixture is stirred for 2 days at RT, then diluted with CH2Cl2 and poured into an aqueous saturated solution of NaHCO3. The organic layer is separated, and the aqueous one is extracted twice with CH2Cl2. The combined organic extracts are dried over Na2SO4, filtered and concentrated. The crude product is purified by flash chromatography on silica gel (eluent: c-hexane/AcOEt 50:50 to 0:100) to give the title compound. TLC, Rf (CH2Cl2/MeOH 95:5)=0.35. MS (LC-MS): 682.4 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 5-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 5.77 min.

reactant | 4-methoxyphenylacetic acid | 0.45 mmol, 0.075 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | triethylamine | 0.45 mmol, 0.063 mL | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxy-benzotriazol hydrate | 0.45 mmol, 0.061 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 0.45 mmol, 0.086 g | Cl.CN(CCCN=C=NCC)C
reactant | (3R*,4R*)-3-cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.375 mmol, 0.2 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CNC1CC1 | C29H47N3O6
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (3R*,4R*)-3-({cyclopropyl-[2-(4-methoxy-phenyl)-acetyl]-amino}-methyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C(CC1=CC=C(C=C1)OC)=O)C1CC1 | C38H55N3O8
